* Z:\mnt\design.r\spice\examples\3483A.asc
L1 IN N001 10µ
V1 IN 0 3.6
C1 N002 N001 .22µ
R1 N004 OUT 806K
R2 N003 OUT 10
D1 N003 N002 1N5817
C2 OUT 0 2.2µ
Rload OUT 0 160
C3 OUT N004 5p
XU1 N001 0 N004 IN N002 IN LT3483A
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3483A.sub
.backanno
.end
